US04448969
A. Preparation of the Reactant, 1,2,2,5,5-Pentamethylimidazolidin-4-one
A 500 ml. resin kettle, equipped with a mechanical stirrer, reflux condenser, thermometer in thermowell, and an addition funnel, was charged with 122.9 g. (0.8642 moles) of 2,2,5,5-tetramethylimidazolidin-4-one, 74.8 g. (0.8642 moles) of 37% formalin solution, and 200 ml. of water. This mixture was stirred without heating as 44.2 g. (0.8642 moles) of 90% formic acid was added over the course of 20 minutes, with the mixture warming up to 30° C. and becoming a solution in this time.

reactant | 2,2,5,5-tetramethylimidazolidin-4-one | 0.8642 moles | CC1(NC(C(N1)=O)(C)C)C | C7H14N2O
reactant | formalin | 0.8642 moles | C=O | CH2O
reactant | formic acid | 0.8642 moles | C(=O)O | CH2O2
solvent | water | O | H2O
product | 1,2,2,5,5-Pentamethylimidazolidin-4-one | CN1C(NC(C1(C)C)=O)(C)C | C8H16N2O
